US07700594B2
3-(8-Chloroimidazo[1,5-a]pyrazin-3-yl)cyclobutanone
Into a round bottom 1-neck flask (5L), 3-oxo-cyclobutanecarboxylic acid 2,5-dioxo-pyrrolidin-1-yl ester (217.2 g, 0.937 mol), C-(3-chloro-pyrazin-2-yl)-methylamine hydrochloride salt (153.3 g, 0.852 mol), and THF (760 mL) were added. A solution of 10% NaHCO3 (1.07 kg) was then added and after 20 min, the layers were allowed to separate and the aqueous layer was removed. The aqueous layer was back extracted with EtOAc (1×700 mL, 1×300 mL). The combined organics were washed with brine (350 mL), dried over MgSO4, filtered, and concentrated in vacuo to provide the title compound. This solid was resuspended in ethyl acetate (915 mL) and DMF (132 mL) and the solution was put under an atmosphere of nitrogen and cooled to 10.5° C. Phosphorus oxychloride (159 mL, 1.70 mol) was then added over 15 minutes and the reaction was allowed to stir for 45 min. The reaction solution was then poured slowly into a 22% aqueous Na2CO3 solution at 10° C. Water (1 L) was added and the layers were allowed to separate. The organic layer was removed and the aqueous was back extracted with EtOAc (1×1L, 1×0.5L). The combined organic phases were dried over MgSO4, filtered, and concentrated in vacuo until about 0.5 L of solvent remained. Heptane was added and the slurry was concentrated in vacuo until most of the EtOAc was removed. The resultant slurry was filtered to give desired product. 1H NMR (400 MHz, CDCl3) δ 3.59-3.68 (m, 2H), 3.72-3.79 (m, 2H), 3.86-3.94 (m, 1H), 7.40 (d, 1H, J=5.2 Hz), 7.60 (d, 1H, J=5.2 Hz) and 7.85 (s, 1H).

reactant | 3-oxo-cyclobutanecarboxylic acid 2,5-dioxo-pyrrolidin-1-yl ester | 0.937 mol, 217.2 g | O=C1N(C(CC1)=O)OC(=O)C1CC(C1)=O | C9H9NO5
reactant | C-(3-chloro-pyrazin-2-yl)-methylamine hydrochloride salt | 0.852 mol, 153.3 g | Cl.ClC=1C(=NC=CN1)CN
reactant | NaHCO3 | 1.07 kg | C(=O)(O)[O-].[Na+]
solvent | THF | 760 mL | C1CCOC1 | C4H8O
product | 3-(8-Chloroimidazo[1,5-a]pyrazin-3-yl)cyclobutanone | ClC=1C=2N(C=CN1)C(=NC2)C2CC(C2)=O | C10H8ClN3O
